US07384934B2
Add sodium hydride (0.675 g, 16.9 mmol) in portions to a 0° C. solution of (S)-2-(2-hydroxyethyl)piperazine-1,4-dicarboxylic acid di-tert-butyl ester (3.72 g, 11.3 mmol) in tetrahydrofuran (50 mL) and stir. After 20 minutes, add methyl iodide (1.4 mL, 22.5 mmol) dropwise. Allow the mixture to reach room temperature overnight, dilute with saturated ammonium chloride and extract three times with ethyl acetate. Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure. Purify by flash chromatography, eluting with a step gradient starting with dichloromethane up to 7% 2N ammonia-methanol in dichloromethane to obtain 2-(2-methoxyethyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester.

reactant | sodium hydride | 16.9 mmol, 0.675 g | [H-].[Na+]
reactant | (S)-2-(2-hydroxyethyl)piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 11.3 mmol, 3.72 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCO | C16H30N2O5
reactant | methyl iodide | 22.5 mmol, 1.4 mL | CI | CH3I
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-(2-methoxyethyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CCOC | C17H32N2O5
